US04859662
8-Fluoro-1,2,3,9-tetrahydro-9-methyl-3-[(5-methyl-1H-imidazol-4-yl)methylene]-4H-carbazol-4-one
Diisopropylamine (2.35 ml) in dry THF (15 ml) was cooled to -78° under nitrogen. n-Butyllithium (1.24M solution in hexane; 13.4 ml) was added, and the mixture was stirred for 15 min. before cooling to -78°. 8-Fluoro-9-methyl-1,2,3,9-tetrahydro-4H-carbazol-4-one (3 g) in dry THF (70 ml) was cooled to -78° under nitrogen, the lithium diisopropylamide solution was added, and the resulting mixture was warmed to -40° over 1 h, before re-cooling to -78°. Intermediate 2 (4.9 g) in dry THF (50 ml) was added slowly, and the mixture was allowed to warm to 0° over 3 h. The mixture was re-cooled to -78°, acetic acid (20 ml) was added, followed by methanesulphonic acid (50 ml), and the mixture was warmed to 20° and then heated at reflux for 12 h. The cooled mixture was poured into water (400 ml), basified (to pH10) with potassium carbonate (50 g) and extracted with ethyl acetate (3×400 ml). The combined, dried organic extracts were evaporated in vacuo to give an oil which was purified by FCC eluting with System A (100:8:1) to give the title compound (2.79 g), m.p. 260°-264° (decomp.). diisopropylamide solution was added, and the resulting mixture was warmed to -40° over 1 h, before re-cooling to -78°. Intermediate 2 (4.9 g) in dry THF (50 ml) was added slowly, and the mixture was allowed to warm to 0° over 3 h. The mixture was re-cooled to -78°, acetic acid (20 ml) was added, followed by methanesulphonic acid (50 ml), and the mixture was warmed to 20° and then heated at reflux for 12 h. The cooled mixture was poured into water (400 ml), basified (to pH10) with potassium carbonate (50 g) and extracted with ethyl acetate (3×400 ml). The combined, dried organic extracts were evaporated in vacuo to give an oil which was purified by FCC eluting with System A (100:8:1) to give the title compound (2.79 g), m.p. 260°-264° (decomp.).

reactant | Diisopropylamine | 2.35 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyllithium | 1.24M, 13.4 ml | C(CCC)[Li]
reactant | 8-Fluoro-9-methyl-1,2,3,9-tetrahydro-4H-carbazol-4-one | 3 g | FC=1C=CC=C2C=3C(CCCC3N(C12)C)=O | C13H12FNO
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | methanesulphonic acid | 50 ml | CS(=O)(=O)O | CH4O3S
reactant | pH10 | CC1=CC=C(C=C1)COC(=O)NNC(=O)C2=NC=CN=C2 | C14H14N4O3
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 400 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 8-Fluoro-1,2,3,9-tetrahydro-9-methyl-3-[(5-methyl-1H-imidazol-4-yl)methylene]-4H-carbazol-4-one | 2.79 g | FC=1C=CC=C2C=3C(C(CCC3N(C12)C)=CC=1N=CNC1C)=O | C18H16FN3O
